### PR TITLE
feat: law of the iterated logarithm

### PR DESCRIPTION
**Pull request by jvanwinden**
This PR adds a proof of the law of the iterated logarithm for Brownian motion, stating that

$\limsup_{t \to \infty} \frac{B_t}{\sqrt{2 \log \log t}} = 1$ almost surely.

The statement is given by `IsBrownian.ae_limsup_div_sqrt_log_log_eq_one`, and only uses the assumption `IsBrownian X P`. The proof is the one from Kallenberg.

There are however two `sorry`-ful lemmas, namely `IsBrownian.reflection` and `IsStandardGaussian.tail`.
The latter can be formalized right now, but the former relies on the strong Markov property for Brownian motion, which might benefit from being proved in higher generality (for example, for Feller processes).

### CODE REVIEW

File: BrownianMotion/Gaussian/IteratedLogarithm.lean [hunk 1]
```diff
@@ -0,0 +1,328 @@
+import BrownianMotion.Gaussian.BrownianMotion
+import Mathlib.Analysis.Calculus.LHopital
+import Mathlib.Analysis.PSeries
+import Mathlib.Probability.BorelCantelli
```
Comment (RemyDegenne) [inline BrownianMotion/Gaussian/IteratedLogarithm.lean]:
```suggestion
module

public import BrownianMotion.Gaussian.BrownianMotion
public import Mathlib.Analysis.Calculus.LHopital
public import Mathlib.Analysis.PSeries
public import Mathlib.Probability.BorelCantelli

@[expose] public section
```

File: BrownianMotion/Gaussian/IteratedLogarithm.lean [hunk 2]
```diff
@@ -0,0 +1,328 @@
...
+variable {Ω : Type*} {mΩ : MeasurableSpace Ω} {P : Measure Ω}
+variable {X}
+
+lemma IsBrownian.reflection (hX : IsBrownian X P) {t : ℝ≥0} {c : ℝ} (ht : 0 < t) (hc : 0 ≤ c) :
+    P.real {ω | c ≤ ⨆ s ≤ t, (X s ω).toEReal} = 2 * P.real {ω | c ≤ X t ω} :=
+  sorry -- needs strong Markov property
+
+lemma IsStandardGaussian.tail (hX : HasLaw X (gaussianReal 0 1) P) :
+    Asymptotics.IsEquivalent atTop (fun x ↦ P.real {ω | x ≤ X ω})
+    (fun x ↦ 1 / x * (-1/2 * x ^ 2).exp) :=
```
Comment (RemyDegenne) [inline BrownianMotion/Gaussian/IteratedLogarithm.lean]:
```suggestion
    (fun x ↦ 1 / x * Real.exp (-1/2 * x ^ 2)) :=
```
Please don't use dot notation for functions like `exp`, `log` or `sqrt`. It's really not readable. Also consider opening the `Real` namespace to shorten `Real.exp` to `exp`.

File: BrownianMotion/Gaussian/IteratedLogarithm.lean [hunk 3]
```diff
@@ -0,0 +1,328 @@
...
+  apply Tendsto.sqrt
+  apply Tendsto.add
+  · apply Tendsto.congr' (f₁ := fun x ↦ 1) _ (by aesop)
+    filter_upwards [eventually_gt_atTop 0] with n hn using by field_simp
+  · field_simp
+    apply Tendsto.const_div_atTop
+    rw [tendsto_mul_const_atTop_iff_pos (tendsto_natCast_atTop_atTop)]
+    positivity
+
+lemma IsBrownian.ae_limsup_div_sqrt_log_log_eq_one (hX : IsBrownian X P) :
```
Comment (RemyDegenne) [inline BrownianMotion/Gaussian/IteratedLogarithm.lean]: Please add a docstring (and make it a `theorem`?). Could you please also add a file docstring?

**Review by RemyDegenne — COMMENTED** [review]
Could you merge the master branch into yours and then run `lake exe mk_all --module` to add your new file to the imports of the `BrownianMotion.lean` file?

File: BrownianMotion/Gaussian/IteratedLogarithm.lean (hunk 2 above)
Comment (jvanwinden) [reply BrownianMotion/Gaussian/IteratedLogarithm.lean]: Thanks for this suggestion! The `Real` namespace and `sqrt` notation seems to make a big difference in terms of readability.

**Comment by jvanwinden** [comment]
Thanks for the review @RemyDegenne! It's my first time proving a 'nontrivial' (for some definition of nontrivial) theorem in lean, so any feedback is much appreciated.
